US06806230B1
0.3 g (1.7 mmol) of 2-pyrimidinylacetate hydrochloride and 0.18 g (1.8 mmol) of triethylamine were dissolved in 30 ml of tetrahydrofuran, and 0.28 g (1.7 mmol) of 1,1′-carbonylbis-1H-imidazole was added, followed by stirring at room temperature for 1 hour. Then, 0.4 g (1.7 mmol) of 4-trifluoromethyl-5-[1-(N-methylamino)-2-methylpropyl]pyrimidine was added, followed by heating and refluxing for further 3 hours. To the reaction solution, 100 ml of water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the obtained crude product was purified by silica gel column chromatography (developing solvent/n-hexane:ethyl acetate:methanol=4.5:4.5:1) to obtain 0.2 g (yield: 33%) of N-methyl-N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)propyl]-2-pyridylacetamide as colorless transparent crystals (melting point: 99-100° C.).

reactant | 2-pyrimidinylacetate hydrochloride | 1.7 mmol, 0.3 g | Cl.N1=C(N=CC=C1)CC(=O)O
reactant | triethylamine | 1.8 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonylbis-1H-imidazole | 1.7 mmol, 0.28 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-trifluoromethyl-5-[1-(N-methylamino)-2-methylpropyl]pyrimidine | 1.7 mmol, 0.4 g | FC(C1=NC=NC=C1C(C(C)C)NC)(F)F | C10H14F3N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-methyl-N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)propyl]-2-pyridylacetamide | 0.2 g, yield: 33% | CN(C(CC1=NC=CC=C1)=O)C(C(C)C)C=1C(=NC=NC1)C(F)(F)F | C17H19F3N4O
